US05175157
2-[(N-(3-(3,4-Dimethoxy-phenoxy)-propyl)-hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinolinehydrochloride
Prepared from 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and N-[3-(3,4-dimethoxy-phenoxy)-propyl]-3-chloromethylhexahydro-azepine analogously to Example 2.

reactant | 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C2CCNC(C2=CC1OC)=O | C11H13NO3
reactant | N-[3-(3,4-dimethoxy-phenoxy)-propyl]-3-chloromethylhexahydro-azepine | COC=1C=C(OCCCN2CC(CCCC2)CCl)C=CC1OC | C18H28ClNO3
product | 2-[(N-(3-(3,4-Dimethoxy-phenoxy)-propyl)-hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinolinehydrochloride | Cl.COC=1C=C(OCCCN2CC(CCCC2)CN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C=CC1OC | InChI=1S/C29H40N2O6.ClH/c1-33-25-10-9-23(17-27(25)35-3)37-15-7-13-30-12-6-5-8-21(19-30)20-31-14-11-22-16-26(34-2)28(36-4)18-24(22)29(31)32;/h9-10,16-18,21H,5-8,11-15,19-20H2,1-4H3;1H
